US08530475B2
5-[2-Hydroxy-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propoxy]-3,4-dihydro-1H-quinolin-2-one
(S)-5-Oxiranylmethoxy-3,4-dihydro-1H-quinolin-2-one (25 mg, 0.114 mmol) and Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (30 mg, 0.114 mmol) were placed in a μW tube with ethanol (2 ml), CH2Cl2 (2 mL), DIPEA (100 μL, 0.576 mmol) and heated to 95° C. for 900 sec. The solvent was evaporated from the reaction mixture and the residue was purified via flash chromatography (gradient 10% to 100% Ethyl acetate/heptane) to yield the title compound as a residue.

reactant | (S)-5-Oxiranylmethoxy-3,4-dihydro-1H-quinolin-2-one | 0.114 mmol, 25 mg | O1[C@@H](C1)COC1=C2CCC(NC2=CC=C1)=O | C12H13NO3
reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.114 mmol, 30 mg | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | DIPEA | 0.576 mmol, 100 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-Hydroxy-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propoxy]-3,4-dihydro-1H-quinolin-2-one | OC(COC1=C2CCC(NC2=CC=C1)=O)CN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2 | C30H33N3O3
